* Z:\mnt\design.r\spice\examples\2179.asc
V1 IN 0 {3.3/2} AC 1
R2 N001 IN 301K
C1 N002 N001 1000p
R1 N003 N002 86K
C2 N004 N003 1000p
R3 N005 N004 121K
C3 N006 N005 1000p
R4 N007 N006 221K
C4 OUT N007 1000p
R5 N004 N008 301K
R6 OUT N010 121K
R7 N009 +V 50K
R8 0 N009 50K
V2 +V 0 3.3
C5 N009 0 1µ
XU1 N008 N001 +V 0 N002 LT1178
XU2 N009 N003 +V 0 N004 LT1178
XU3 N010 N005 +V 0 N006 LT1178
XU4 N009 N007 +V 0 OUT LT1178
.ac oct 100 100 10K
.lib LTC.lib
.backanno
.end
